US04167571
A 50% aqueous solution of chloroacetaldehyde (28.4 g) is added, at between 20° and 30° C., to a solution of triethylammonium 6-methylpyrid-2-yldithiocarbamate (51.5 g) in distilled water (225 cc). The reaction mixture is stirred for 2 hours at 25° C. The crude product is filtered off, washed five times with distilled water (total 125 cc) and dried in air. The product obtained (37.0 g; m.p. 128° C.) is dissolved in boiling ethanol (250 cc). After filtering the boiling solution and cooling the filtrate for 2 hours at 2° C., the resulting crystals are filtered off, washed three times with ice-cooled ethanol (total 30 cc) and dried under reduced pressure (0.2 mm Hg) at 40° C. 4-Hydroxy-3-(6-methylpyrid-2-yl)-thiazolidine-2-thione (29.8 g), melting at 128° C., is thus obtained.

reactant | chloroacetaldehyde | 28.4 g | ClCC=O | C2H3ClO
reactant | triethylammonium 6-methylpyrid-2-yldithiocarbamate | 51.5 g | CC1=CC=CC(=N1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | ethanol | 250 cc | C(C)O | C2H6O
solvent | water | 225 cc | O | H2O
product | 4-Hydroxy-3-(6-methylpyrid-2-yl)-thiazolidine-2-thione | 29.8 g | OC1N(C(SC1)=S)C1=NC(=CC=C1)C | C9H10N2OS2
